US08476286B2
(3-Dimethylamino-propyl)-methyl-carbamic acid 4-[4-(4-isopropyl-phenyl)-2-oxo-6-prop-2-ynyloxy-2H-quinazolin-1-ylmethyl]-phenyl ester (trifluoroacetic acid salt)
To an excess of phosgene dissolved in toluene are added at 0° C. 41.5 μl (0.283 mmol) N,N,N′-trimethyl-1,3-propanediamine. After 5 minutes the solvent is evaporated and the residue is dissolved in 2 ml dichloromethane. Triethylamine (79.2 μl, 0.566 mmol) and a solution of 100 mg (0.236 mmol) 1-(4-hydroxy-benzyl)-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one in 2 ml dichloromethane are added at 0° C. After stirring for 20 h at rt aqueous ammonia and 0.1 M NaOH are added. The title compound is obtained by extraction with dichloromethane followed by reversed phase preparative HPLC.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | N,N,N′-trimethyl-1,3-propanediamine | 0.283 mmol, 41.5 μl | CN(CCCNC)C | C6H16N2
reactant | Triethylamine | 0.566 mmol, 79.2 μl | C(C)N(CC)CC | C6H15N
reactant | 1-(4-hydroxy-benzyl)-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one | 0.236 mmol, 100 mg | OC1=CC=C(CN2C(N=C(C3=CC(=CC=C23)OCC#C)C2=CC=C(C=C2)C(C)C)=O)C=C1 | C27H24N2O3
reactant | ammonia | N | H3N
reactant | NaOH | 0.1 M | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (3-Dimethylamino-propyl)-methyl-carbamic acid 4-[4-(4-isopropyl-phenyl)-2-oxo-6-prop-2-ynyloxy-2H-quinazolin-1-ylmethyl]-phenyl ester | C(C)(C)C1=CC=C(C=C1)C1=NC(N(C2=CC=C(C=C12)OCC#C)CC1=CC=C(C=C1)OC(N(C)CCCN(C)C)=O)=O | C34H38N4O4
